US06191150B1
A solution of (2R,3S)-3-(2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)hexanoic acid (7.90 g, 27.5 mmol) in 100 mL of anhydrous pyridine is cooled to 0° C. and treated with formic acetic anhydride (4.0 mL, 46 mmol). The reaction mixture is allowed to warm to 25° C., stirred for 6 h, and then concentrated to dryness under reduced pressure. The resulting gum is dissolved in 150 mL of EtOAc and washed successively with two 50-mL portions of 1 M aqueous sodium bisulfate and two 50-mL portions of saturated aqueous sodium chloride. The combined organic extracts are dried over sodium sulfate and filtered, and the solvents are removed under reduced pressure affording 8.67 g (99%) of (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)hexanoic acid obtained as a viscous oil.

reactant | (2R,3S)-3-(2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)hexanoic acid | 27.5 mmol, 7.90 g | O1C(CCCC1)ON[C@H]([C@H](C(=O)O)CC(C)C)CCC | C15H29NO4
reactant | formic acetic anhydride | 46 mmol, 4.0 mL | C(C)(=O)OC=O | C3H4O3
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)hexanoic acid | 8.67 g, 99% | C(=O)N([C@H]([C@H](C(=O)O)CC(C)C)CCC)OC1OCCCC1 | C16H29NO5
